US07579351B2
2-Cyclopropylmethyl-9-(1-isopropyl-piperidin-4-yloxy)-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one
The title compound was synthesized in analogy to example 1, from 2-cyclopropylmethyl-9-hydroxy-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one, 1-isopropyl-piperidin-4-ol (commercially available), triphenylphosphine and di-tert-butylazodicarboxylate, to give the desired product as a light yellow solid (45%).

reactant | 2-cyclopropylmethyl-9-hydroxy-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one | C1(CC1)CN1C(C=2N(C=3C=CC(=CC3C2)O)CCC1)=O | C16H18N2O2
reactant | 1-isopropyl-piperidin-4-ol | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butylazodicarboxylate | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
product | 2-Cyclopropylmethyl-9-(1-isopropyl-piperidin-4-yloxy)-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one | 45% | C1(CC1)CN1C(C=2N(C=3C=CC(=CC3C2)OC2CCN(CC2)C(C)C)CCC1)=O | C24H33N3O2
